US04400509
Trimethylsilyl 7-trimethylsilylamino-3-methyl-3-cephem-4-carboxylate
A mixture consisting of 0.80 g (3.7 mmoles) of 7-amino-3-methyl-3-cephem-4-carboxylic acid, 1.87 ml (11.6 mmoles) of hexamethyldisilazane, 8.8 mg (0.48 mmole) of saccharin and 20 ml of chloroform was heated to reflux and a clear solution was obtained after 10 minutes. After refluxing for 2 hours, volatile material was evaporated under vacuum (bath temperature 50° C.) and the solid residue was dissolved in 5 ml of carbon tetrachloride. From the NMR spectrum of this solution, it could be concluded that the N,O-disilylated derivative was present for 80% (by comparing the ratio of the N-trimethylsilyl and O-trimethylsilyl signals).

reactant | 7-amino-3-methyl-3-cephem-4-carboxylic acid | 3.7 mmoles, 0.80 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
reactant | hexamethyldisilazane | 11.6 mmoles, 1.87 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | saccharin | 0.48 mmole, 8.8 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | Trimethylsilyl 7-trimethylsilylamino-3-methyl-3-cephem-4-carboxylate | C[Si](C)(C)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O[Si](C)(C)C)C1=O | C14H26N2O3SSi2
